US07622469B2
2,4-Dioctylamino-3,6-dihydro-6,6-dimethyl-1,3,5-triazine acetate
100 ml of methanol, 80 ml of acetone and 0.6 ml of concentrated hydrochloric acid were added to 10.0 g (25.1 mmol) of N1,N5-dioctyl-biguanide dihydrochloride. The mixture was refluxed for 64 hours, and the solvent was distilled off under reduced pressure. To the residue were added 110 ml of ethanol, 60 ml of water and 10.1 ml of 5N sodium hydroxide, and the mixture was refluxed for 1 hour, concentrated under reduced pressure, and then extracted with ethyl acetate. The extract was washed with water, and the solvent was distilled off under reduced pressure. The residue was recrystallized from methyl ethyl ketone to obtain 7.2 g of colorless crystals having a melting point of 91 to 93° C.

reactant | methanol | 100 ml | CO | CH4O
reactant | hydrochloric acid | 0.6 ml | Cl | ClH
reactant | N1,N5-dioctyl-biguanide dihydrochloride | 25.1 mmol, 10.0 g | Cl.Cl.C(CCCCCCC)NC(=N)NC(=N)NCCCCCCCC
reactant | acetone | 80 ml | CC(=O)C | C3H6O
product | 2,4-Dioctylamino-3,6-dihydro-6,6-dimethyl-1,3,5-triazine acetate | 7.2 g | C(C)(=O)O.C(CCCCCCC)NC1=NC(N=C(N1)NCCCCCCCC)(C)C | InChI=1S/C21H43N5.C2H4O2/c1-5-7-9-11-13-15-17-22-19-24-20(26-21(3,4)25-19)23-18-16-14-12-10-8-6-2;1-2(3)4/h5-18H2,1-4H3,(H3,22,23,24,25,26);1H3,(H,3,4)
